US07094801B2
Ex-38A: 5-(2,4-Dimethoxy-pyrimidin-5-yl)-2,4-dimethoxy-benzaldehyde was prepared from 5-bromo-2,4-dimethoxybenzaldehyde and 2,4-Dimethoxy-pyrimidin-5-boronic acid in a similar manner as described in Ex-3A, 75% yield. 1H-NMR (CDCl3) δ 10.34 (s, 1H), 8.13 (s, 1H), 7.74 (s, 1H), 6.51 (s, 1H), 4.03 (s, 3H), 3.99 (s, 3H), 3.95 (s, 3H), 3.88 (s, 3H).

reactant | 5-bromo-2,4-dimethoxybenzaldehyde | BrC=1C(=CC(=C(C=O)C1)OC)OC | C9H9BrO3
reactant | 2,4-Dimethoxy-pyrimidin-5-boronic acid | COC1=NC=C(C(=N1)OC)B(O)O | C6H9BN2O4
product | 5-(2,4-Dimethoxy-pyrimidin-5-yl)-2,4-dimethoxy-benzaldehyde | 75% yield | COC1=NC=C(C(=N1)OC)C=1C(=CC(=C(C=O)C1)OC)OC | C15H16N2O5
